US04561882
To a solution of ethyl 4-[4-(2-nitro-4-chlorophenoxy)phenoxy]-3-oxopentanoate (600 mg) in absolute ethanol (10 ml) is added at 0°, NaBH4 (300 mg). After addition is complete, the reaction mixture is stirred for about 20 minutes. Then the solution is taken up in CH2Cl2, washed with brine, dried and evaporated to give ethyl 4-[4-(2-nitro-4-chlorophenoxy)phenoxy]-3-hydroxypentanoate.

reactant | ethyl 4-[4-(2-nitro-4-chlorophenoxy)phenoxy]-3-oxopentanoate | 600 mg | [N+](=O)([O-])C1=C(OC2=CC=C(OC(C(CC(=O)OCC)=O)C)C=C2)C=CC(=C1)Cl | C19H18ClNO7
reactant | NaBH4 | 300 mg | [BH4-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | ethyl 4-[4-(2-nitro-4-chlorophenoxy)phenoxy]-3-hydroxypentanoate | [N+](=O)([O-])C1=C(OC2=CC=C(OC(C(CC(=O)OCC)O)C)C=C2)C=CC(=C1)Cl | C19H20ClNO7
